US08669255B2
tert-butyl (7S,8aS)-7-{[(4-chlorobenzyl)sulfonyl]amino}hexahydro-pyrrolo[1,2-a]pyrazine-2(1H)-carboxylate
To a solution of (4-chlorophenyl)methanesulfonyl chloride (1.125 g, 5 mmol) in dichloromethane (10 mL) was added (7S,8aS)-tert-butyl 7-aminohexahydro-pyrrolo[1,2-a]pyrazine-2(1H)-carboxylate (1.400 g, 5.80 mmol) followed by triethylamine (0.758 g, 7.5 mmol). The mixture was stirred at room temperature overnight, and then concentrated. The residue was purified by chromatography on silica gel (ethyl acetate) to give the title compound. 1H NMR (500 MHz, DMSO-d6) δ ppm 1.25 (m, 1H), 1.39 (s, 9 H), 1.80 (m, 1 H), 1.95 (m, 1 H), 2.07-2.23 (m, 2 H), 2.89 (m, 3 H), 2.75-3.98 (m, 3 H), 4.32 (s, 2H), 7.43 (m, 5H). MS (ESI) m/z 431 (M+H)+.

reactant | (4-chlorophenyl)methanesulfonyl chloride | 5 mmol, 1.125 g | ClC1=CC=C(C=C1)CS(=O)(=O)Cl | C7H6Cl2O2S
reactant | (7S,8aS)-tert-butyl 7-aminohexahydro-pyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 5.80 mmol, 1.400 g | N[C@H]1C[C@@H]2N(CCN(C2)C(=O)OC(C)(C)C)C1 | C12H23N3O2
reactant | triethylamine | 7.5 mmol, 0.758 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | tert-butyl (7S,8aS)-7-{[(4-chlorobenzyl)sulfonyl]amino}hexahydro-pyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | ClC1=CC=C(CS(=O)(=O)N[C@H]2C[C@@H]3N(CCN(C3)C(=O)OC(C)(C)C)C2)C=C1 | C19H28ClN3O4S
